US09376454B2
Step 1. Synthesis of 2-(3,4-bis(2-(tert-butoxycarbonylamino)ethoxy)phenyl)acetic acid
To methyl 2-(3,4-dihydroxyphenyl)acetate (1.0 g) in DMF (10 mL) was added tert-butyl 2-bromoethylcarbamate (2.7 g) and K2CO3 (1.7 g). The resulting reaction mixture was stirred at 60° C. overnight. Water was added and the aqueous phase extracted with EtOAc. The organic phase was then dried and concentrated. The residue was purified by flash chromatography. The product was obtained as a mixture of mono- and bis-alkylation. The mixture was then dissolved in MeOH and THF (10 mL, 1:1) and 1N NaOH was added. The resulting reaction mixture was stirred at room temperature overnight. 1N HCl was added to acidify the solution. The aqueous phase was extracted with EtOAc (3×). The organic phases were combined, dried and concentrated. The title product was obtained by reverse phase chromatography purification (0.5 g).

reactant | methyl 2-(3,4-dihydroxyphenyl)acetate | 1.0 g | OC=1C=C(C=CC1O)CC(=O)OC | C9H10O4
reactant | tert-butyl 2-bromoethylcarbamate | 2.7 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | K2CO3 | 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-(3,4-bis(2-(tert-butoxycarbonylamino)ethoxy)phenyl)acetic acid | C(C)(C)(C)OC(=O)NCCOC=1C=C(C=CC1OCCNC(=O)OC(C)(C)C)CC(=O)O | C22H34N2O8
